US08497360B2
NBS (5.45 g, 30.62 mmol) and benzoyl peroxide (75% aq, 200 mg, 0.85 mmol) were added to a solution of 4-iodo-2-nitrotoluene (4.63 g, 17.60 mmol) in CCl4 (60 mL). The mixture was heated to reflux overnight, then cooled to room temperature, concentrated in vacuo, and purified by column chromatography to yield 1-bromomethyl-4-iodo-2-nitrobenzene (2.71 g, 45%). 1H NMR (400 MHz, CDCl3): δ 8.35 (d, 1 H, J=1.8 Hz, Ph-H), 7.93 (dd, 1 H, J=1.8 and 8.1 Hz, Ph-H), 7.30 (d, 1 H, J=8.1 Hz, Ph-H), 4.76 (s, 2 H, PhCH2).

reactant | NBS | 30.62 mmol, 5.45 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 0.85 mmol, 200 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 4-iodo-2-nitrotoluene | 17.60 mmol, 4.63 g | IC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6INO2
solvent | CCl4 | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-bromomethyl-4-iodo-2-nitrobenzene | 2.71 g, 45% | BrCC1=C(C=C(C=C1)I)[N+](=O)[O-] | C7H5BrINO2
